US07053071B2
Step 6: Ethyl (E)-4-[3-(1-adamantyl)-4-hydroxyphenyl]-3-methylcinnamate
A mixture of 1.44 g (2.84 mmol) of ethyl (E)-4-[3-(1-adamantyl)-4-benzyloxyphenyl]-3-methylcinnamate was stirred in 10 ml of CH2Cl2 at −78° C. under Ar while 8.0 ml of 1.0 M BBr3 in CH2Cl2 was added slowly over a period of 0.5 hour. The reaction mixture was stirred for 2 hours more, at which time the reaction was complete. The mixture was extracted with EtOAc, washed with brine and water, dried (MgSO4), filtered, and concentrated. Flash column chromatography (20% EtOAc/hexane) yielded a pale-yellow solid (0.86 g, 73%: m.p. 193–195° C.; Rf0.47 (20% EtOAc/hexane); 1H NMR (300 MHz, CDCl3) δ 1.78, 2.14 (2 s, 12, AdCH2), 2.09 (s, 3, AdCH), 1.35 (t, J=7.2 Hz, 3 CH3), 2.31 (s, 3, ArCH3), 4.27 (q, J=7.6 Hz, 2, CH2), 4.94 (s, 1, OH), 6.46 (d, J=16.4 Hz, 1, HC═CCO), 6.71 (d, J=8.4 Hz, 1, ArH), 7.03 (dd, J=8.4, 1.6 Hz, 1, ArH), 7.16 (d, J=2.8 Hz, 1, ArH), 7.25 (s, 1, ArH), 7.39 (dd, J=9.2, 2.4 Hz, 1, ArH), 7.41 (s, 1, ArH), 7.71 ppm (d, J=16.0 Hz, 1, C═CHCO).

reactant | ethyl (E)-4-[3-(1-adamantyl)-4-benzyloxyphenyl]-3-methylcinnamate | 2.84 mmol, 1.44 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCC2=CC=CC=C2)C2=C(C=C(/C=C/C(=O)OCC)C=C2)C | C35H38O3
reactant | BBr3 | 1.0 M, 8.0 ml | B(Br)(Br)Br | BBr3
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Ethyl (E)-4-[3-(1-adamantyl)-4-hydroxyphenyl]-3-methylcinnamate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C2=C(C=C(/C=C/C(=O)OCC)C=C2)C | C28H32O3
